US06255494B1
Preparation of 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-[3-[1-[3-(piperidin-1-yl)propyl]piperidin-4-yl]propyl]benzimidazole
In a 25 ml round bottom flask, under a nitrogen atmosphere, were added 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-[3-(piperidin-4-yl)propyl]benzimidazole (69.9 mg, 0.13 mmol), potassium carbonate (161.9 mg, 1.17 mmol), potassium iodide (21.6 mg, 0.13 mmol), 3-(piperidin-1-yl)propyl chloride (33.52 mg, 0.17 mmol) and N,N-dimethylformamide (3 ml). The resulting mixture was heated to 100° C. and maintained at this temperature. The progress of the reaction was monitored by thin layer chromatography. The reaction was quenched by the addition of water. The aqueous fraction was extracted wtih ethyl acetate. The organic fractions were combined, washed with water, and then dried over sodium sulfate. The solvents were removed in vacuo. The desired title product was further purified by radial chromatography.

reactant | 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-[3-(piperidin-4-yl)propyl]benzimidazole | 0.13 mmol, 69.9 mg | C(C=C)C1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCNCC2 | C25H30ClN3O
reactant | potassium carbonate | 1.17 mmol, 161.9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.13 mmol, 21.6 mg | [I-].[K+]
reactant | 3-(piperidin-1-yl)propyl chloride | 0.17 mmol, 33.52 mg | N1(CCCCC1)CCCCl | C8H16ClN
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-[3-[1-[3-(piperidin-1-yl)propyl]piperidin-4-yl]propyl]benzimidazole | C(C=C)C1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCN(CC2)CCCN2CCCCC2 | C33H45ClN4O
